US05955492
a) ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-(4-trifluoromethylbenzyloxy)indole-2-carboxylate
To a stirring suspension of sodium hydride (0.016 g, (60% in mineral oil), 0.402 mmol) in DMF (2 mL) was added ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-hydroxyindole-2-carboxylate (0.100 g, 0.268 mmol). After 15 minutes, 4-trifluoromethylbenzyl bromide (0.096 g, 0.402 mmol) was added. After 1.5 hours, the mixture was partitioned between water and ethyl acetate. The organic layer was washed with water and saturated brine, dried (MgSO4), filtered and concentrated to a residue that was purified by column chromatography (ethyl acetate/hexane) to give the title compound as a white solid (0.124 g, 87%).

reactant | sodium hydride | 0.402 mmol, 0.016 g | [H-].[Na+]
reactant | ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-hydroxyindole-2-carboxylate | 0.268 mmol, 0.100 g | ClC1=C(CN2C(=CC3=CC(=CC=C23)O)C(=O)OCC)C=C2C(=C1)OCO2 | C19H16ClNO5
reactant | 4-trifluoromethylbenzyl bromide | 0.402 mmol, 0.096 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-(4-trifluoromethylbenzyloxy)indole-2-carboxylate | 0.124 g, 87% | ClC1=C(CN2C(=CC3=CC(=CC=C23)OCC2=CC=C(C=C2)C(F)(F)F)C(=O)OCC)C=C2C(=C1)OCO2 | C27H21ClF3NO5
